US09422281B2
A mixture of (S)-1-(6-(1-cyclopropyl-1H-pyrazol-4-yl)-2-methyl-3,4-dihydroquinoxaline-1(2H)-yl)ethanone (0.050 g, 0.169 mmol), 3-bromo-1-(tetrahydro-2H-pyran-2-yl)-1H-indazole (0.071 g, 0.253 mmol), tris(dibenzylideneacetone)dipalladium (0.015 g, 0.017 mmol), 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (Xantphos) (0.020 g, 0.034 mmol), cesium carbonate (0.165 g, 0.506 mmol), and t-butanol (2.0 mL) was heated in the microwave at 100° C. for 4 h. A second portion of 3-bromo-1-(tetrahydro-2H-pyran-2-yl)-1H-indazole (0.071 g, 0.253 mmol), tris(dibenzylideneacetone)dipalladium (0.015 g, 0.017 mmol), Xantphos (0.020 g, 0.034 mmol), cesium carbonate (0.165 g, 0.506 mmol) and dioxane (2.0 mL) was added, and the mixture stirred at 100° C. for 4.5 h. A third portion of 3-bromo-1-(tetrahydro-2H-pyran-2-yl)-1H-indazole (0.071 g, 0.253 mmol), tris(dibenzylideneacetone)dipalladium (0.015 g, 0.017 mmol), Xantphos (0.020 g, 0.034 mmol), and cesium carbonate (0.165 g, 0.506 mmol) was added, and the mixture stirred at 100° C. for 18 h. The reaction mixture was filtered through Celite and concentrated to afford an orange oil. This material was purified via column chromatography on silica gel (Biotage 25 g column, gradient elution with 50-100% ethyl acetate-hexane) to afford 1-((2S)-6-(1-cyclopropyl-1H-pyrazol-4-yl)-2-methyl-4-(1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-3-yl)-3,4-dihydroquinoxaline-1(2H)-yl)ethanone (0.048 g, 57%) as a tan solid. MS (ESI, pos. ion) m/z 497 [M+H]+.

reactant | (S)-1-(6-(1-cyclopropyl-1H-pyrazol-4-yl)-2-methyl-3,4-dihydroquinoxaline-1(2H)-yl)ethanone | 0.169 mmol, 0.050 g | C1(CC1)N1N=CC(=C1)C=1C=C2NC[C@@H](N(C2=CC1)C(C)=O)C | C17H20N4O
reactant | 3-bromo-1-(tetrahydro-2H-pyran-2-yl)-1H-indazole | 0.253 mmol, 0.071 g | BrC1=NN(C2=CC=CC=C12)C1OCCCC1 | C12H13BrN2O
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 0.034 mmol, 0.020 g | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | cesium carbonate | 0.506 mmol, 0.165 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-bromo-1-(tetrahydro-2H-pyran-2-yl)-1H-indazole | 0.253 mmol, 0.071 g | BrC1=NN(C2=CC=CC=C12)C1OCCCC1 | C12H13BrN2O
reactant | Xantphos | 0.034 mmol, 0.020 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | cesium carbonate | 0.506 mmol, 0.165 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-bromo-1-(tetrahydro-2H-pyran-2-yl)-1H-indazole | 0.253 mmol, 0.071 g | BrC1=NN(C2=CC=CC=C12)C1OCCCC1 | C12H13BrN2O
reactant | Xantphos | 0.034 mmol, 0.020 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | cesium carbonate | 0.506 mmol, 0.165 g | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | tris(dibenzylideneacetone)dipalladium | 0.017 mmol, 0.015 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | tris(dibenzylideneacetone)dipalladium | 0.017 mmol, 0.015 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | tris(dibenzylideneacetone)dipalladium | 0.017 mmol, 0.015 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
solvent | t-butanol | 2.0 mL | C(C)(C)(C)O | C4H10O
product | 1-((2S)-6-(1-cyclopropyl-1H-pyrazol-4-yl)-2-methyl-4-(1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-3-yl)-3,4-dihydroquinoxaline-1(2H)-yl)ethanone | 0.048 g, 57% | C1(CC1)N1N=CC(=C1)C=1C=C2N(C[C@@H](N(C2=CC1)C(C)=O)C)C1=NN(C2=CC=CC=C12)C1OCCCC1 | C29H32N6O2
